US05650422
A mixture of 3.27 g (0.012 mol) of 4-bromosaccharin [Japanese Pat. Publcn. 58/79,034, published May 12, 1983; C. A. 100, 7773w (1984)], 1.63 g (0.015 mol) of potassium t-butoxide, 0.39 g (0.0012 mol) of tetrabutylammonium bromide and 3.0 ml (0.022 mol) of chloromethyl phenyl sulfide in 100 ml of toluene was heated under reflux under a nitrogen atmosphere for eight hours and then at ambient temperature for about sixteen hours. The reaction mixture was then cooled, diluted with ethyl acetate and the organic layer washed with bicarbonate, water and brine and then dried over magnesium sulfate and taken to dryness in vacuo. The residual solid was recrystallized from toluene-hexane to give 3.86 g (84%) of 4-bromo-2-phenylthiomethylsaccharin, mp 174.5°-178° C.

reactant | 4-bromosaccharin | 0.012 mol, 3.27 g | BrC1=C2C(NS(=O)(=O)C2=CC=C1)=O | C7H4BrNO3S
reactant | potassium t-butoxide | 0.015 mol, 1.63 g | CC(C)([O-])C.[K+]
reactant | chloromethyl phenyl sulfide | 0.022 mol, 3.0 ml | C1(=CC=CC=C1)SCCl | C7H7ClS
catalyst | tetrabutylammonium bromide | 0.0012 mol, 0.39 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2-phenylthiomethylsaccharin | 3.86 g, 84% | BrC1=C2C(N(S(=O)(=O)C2=CC=C1)CSC1=CC=CC=C1)=O | C14H10BrNO3S2
